US05990108
4.38 g of ammonium acetate are added to a solution of 2.9 g of ethyl 1-(4-carbethoxymethyl-1-oxoindan-2-yl)-4-(4-carbethoxyphenyl)imidazole-2-carboxylate in 25 ml of acetic acid and the mixture is stirred for 2 hours at boiling temperature and again for 2 hours after addition of 1 g of ammonium acetate. After cooling to 60° C., the insoluble matter is separated by filtration, washed 3 times with a total of 45 ml of acetic acid, 3 times with a total of 90 ml of ethyl ether and dried under reduced pressure (0.5 mm Hg; 0.07 kPa) at 60° C. 1.8 g of ethyl 2-(4-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate are thus obtained in the form of a beige solid which decomposes without melting above 260° C. [1H NMR spectrum in DMSO-d6, T=300K, δ in ppm (300 MHz): 1.20 (3H, t, J=6 Hz, CH3), 1.35 (3H, t, J=6 Hz, CH3), 3.85 (2H, s, CH2CO), 4.00 (2H, s, CH2), 4.12 (2H, q, J=6 Hz, OCH2), 4.35 (2H, q, J=6 Hz, OCH2), 7.25 (1H, d, J=7 Hz, arom. CH), 7.40 (1H, t, J=7 Hz, arom. CH), 7.85 (1H, d, J=7 Hz, arom. CH), 8.05 and 8.15 (2H each, d, J=7 Hz, PhCO2H.), 8.70 (1H, s, imidazole CH), 12.10 (1H, s, NHCO)].

reactant | ammonium acetate | 4.38 g | C(C)(=O)[O-].[NH4+]
reactant | ethyl 1-(4-carbethoxymethyl-1-oxoindan-2-yl)-4-(4-carbethoxyphenyl)imidazole-2-carboxylate | 2.9 g | C(=O)(OCC)CC1=C2CC(C(C2=CC=C1)=O)N1C(=NC(=C1)C1=CC=C(C=C1)C(=O)OCC)C(=O)OCC | C28H28N2O7
reactant | ammonium acetate | 1 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | ethyl 2-(4-carbethoxyphenyl)-4-oxo-4,5-dihydro-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-9-acetate | 1.8 g | C(=O)(OCC)C1=CC=C(C=C1)C=1N=C2N(C3=C(NC2=O)C=2C=CC=C(C2C3)CC(=O)OCC)C1 | C26H23N3O5
